US09302989B2
N-(4-formylphenyl)isoindoline-2-carboxamide
The title compound was prepared as described in Example 272B, substituting 4-aminobenzaldehyde for 4-amino-N-propylbenzamide and isoindoline for methyl isoindoline-5-carboxylate hydrochloride.

reactant | 4-amino-N-propylbenzamide | NC1=CC=C(C(=O)NCCC)C=C1 | C10H14N2O
reactant | isoindoline | C1NCC2=CC=CC=C12 | C8H9N
reactant | methyl isoindoline-5-carboxylate hydrochloride | Cl.C1NCC2=CC(=CC=C12)C(=O)OC
product | N-(4-formylphenyl)isoindoline-2-carboxamide | C(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C16H14N2O2
